US06307066B1
A suspension of simvastatin phenylboronate (30.0 g) and 1,3-propanediol (450 mL) was heated at 105 to 107° C. at 0.2 mm Hg. After 1 hour, 182 mL of distillate was collected and the reaction was cooled to 20 to 25° C. Deionized water (270 mL) was added and toluene (3×75 mL) was used to extract the mixture. The combined toluene layers were washed with water (2×30 mL). The organic solution was heated at reflux for 1 hour and water was azeotropically removed. The solution was concentrated to a final volume of 24 mL under vacuum at 48 to 50° C. To the concentrated solution was added hexanes (215 mL) over 10 minutes. The resulting slurry was cooled to 0 to 5° C. and filtered. The crude simvastatin was washed with 0 to 5° C. hexanes and dried under vacuum to yield 21.0 g (88%) of simvastatin.

reactant | simvastatin phenylboronate | 30.0 g | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C.C1(=CC=CC=C1)B([O-])[O-]
solvent | 1,3-propanediol | 450 mL | C(CCO)O | C3H8O2
product | simvastatin | 21.0 g, 88% | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C25H38O5
